US07279487B2
Step 1b: Preparation of methyl 3-aminopyridine-2-carboxylate
A solution of 3-aminopyridine-2-carbonitrile (9.7 g, 81.8 mmol) in MeOH (100 mL) was placed in a round bottom pressure vessel. The solution was cooled to −78° C. and HCl gas was bubbled through the solution until the volume of the solution had noticeably increased. The flask was sealed and the reaction warmed to room temperature and stirred overnight. At this time, LCMS (sampled after re-cooling the reaction to −78° C.) showed only a small amount of starting cyano compound remaining. Water (14 mL, 818 mmol) was added and the reaction transferred to a flask equipped with a reflux condenser. The reaction was refluxed overnight. The solution was concentrated and the remaining solution was basified with 1N NaOH to pH 9, then extracted with CHCL3 repeatedly until very little UV-active material was removed. The organic layers were dried over Na2SO4, filtered and evaporated to give the product as a pink solid.

reactant | 3-aminopyridine-2-carbonitrile | 81.8 mmol, 9.7 g | NC=1C(=NC=CC1)C#N | C6H5N3
reactant | Water | 818 mmol, 14 mL | O | H2O
reactant | MeOH | 100 mL | CO | CH4O
product | methyl 3-aminopyridine-2-carboxylate | NC=1C(=NC=CC1)C(=O)OC | C7H8N2O2
